Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PLASTIC
 
Allergies: 
Crestor / hayfever / pollen / green apples
 
Attending: ___
 
Chief Complaint:
Right hamstring rupture 
 
Major Surgical or Invasive Procedure:
HAMSTRING REATTACHMENT AND NEUROLYSIS sciatic nerve AND WRAPPING 
OF SCIATIC NERVE RIGHT THIGH

 
History of Present Illness:
REASON FOR CONSULT: Right hamstring rupture - assistance with
neurolysis and nerve wrapping of sciatic nerve 

HPI: Dr. ___ is an otherwise healthy ___ old radiologist
with a history of hyperlipidemia presents in consultation after
suffering complete rupture of his right hamstring on ___.
Further work-up and evaluation by Dr. ___ and MRI
showed complete right hamstring rupture involving both the
conjoined tendon and semimembranosus. There was also note made 
of
right abductor strain involving the abductor brevis and magnus
muscles. The first week after his injury recalls severe pain in
his right gluteal muscle groups and right posterior thigh. He 
was
unable to straighten his leg and was strictly on crutches. He 
has
now been able to walk, without much pain, and without additional
assistance. He denies any numbness or tingling. He does note
relative weakness, just in the care of the injury.
 
Past Medical History:
PMH:
HYPERLIPIDEMIA                                                  
VITAMIN D DEFICIENCY                                            
NEPHROLITHIASIS                                                 
HYPERCHOLESTEROLEMIA                                            
? ALLERGY                                                       
RETRORECTAL CYSTIC HAMARTOMA                                    
L KNEE PAIN                                                     
BRONCHOSPASM                                                    
ALLERGIC RHINITIS                                               
MIGRAINE HEADACHES                                              
H/O ___ NEUROMA  

PSH:                                            
Orthoscopic surgery to left knee - ___
Eye surgery - childhood 
Appendectomy ___ 

MEDS: 
Atorvastatin 10mg qd
Co-Q10 200mg qd
Vitamin D3 ___ IU
Magnesium 200mg as needed 

ALL: 
Crestor              
 
Social History:
___
Family History:
n/c 
 
Physical Exam:
General: Well-appearing male in no acute distress.
Respirations are unlabored on room air.

Right lower extremity:
The patient is firing tibialis anterior, gastrocnemius, flexor 
hallucis longus,
and extensor hallucis longus.  Sensation is intact in deep
peroneal, superficial peroneal, tibial, sural, and saphenous
nerve distributions.  

His RLE is in the ___ brace and flexed to 60 degrees. 
Dressing is c/d/I. 
 
Pertinent Results:
nil 
 
Brief Hospital Course:
The patient presented as a same day admission for surgery. The 
patient was taken to the operating room on ___ for right 
hamstring repair and sciatic nerve neurolysis and nerve wrap 
with alloderm, which the patient tolerated well. For full 
details of the procedure please see the separately dictated 
operative report. The patient was taken from the OR to the PACU 
in stable condition and after satisfactory recovery from 
anesthesia was transferred to the floor. The patient was 
initially given IV fluids and IV pain medications, and 
progressed to a regular diet and oral medications by POD#1.
The patient worked with OT on the morning of POD#1 for help with 
ADLs. It 
was determined that discharge to home was appropriate. The 
___ hospital course was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding spontaneously. The patient is 
touchdown weightbearing to left lower extremity in a locked 
hinged ___ knee brace and 60 degrees of flexion with use of 
crutches.  He will be discharged on aspirin 325 mg daily for DVT 

prophylaxis per Dr. ___.  The patient will follow up with 
Dr. ___ 
routine - 3 weeks for wound check and arrange closer follow-up 
with Dr. ___ his office. A thorough discussion was had 
with the patient 
regarding the diagnosis and expected post-discharge course 
including reasons to call the office or return to the hospital, 
and all questions were answered. The patient was also given 
written instructions concerning precautionary instructions and 
the appropriate follow-up care. The patient expressed readiness 
for discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO 5X/DAY  
2.  Aspirin 325 mg PO DAILY 
x 4 weeks per Dr. ___ VTE prophylaxis   
3.  Diazepam 2 mg PO Q8H:PRN spasm  
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hamstring Rupture 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid  - 
crutches. 

 
Discharge Instructions:
INSTRUCTIONS AFTER SURGERY:

- You were in the hospital for surgery. It is normal to feel 
tired or "washed out" after surgery, and this feeling should 
improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
Touchdown weightbearing to the left lower extremity in ___ 
knee brace locked in 60 degrees of flexion

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take aspirin 325 mg for 4 weeks for DVT prophylaxis

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- You have dissolvable sutures and will not need any suture 
removal when we see you in 3 weeks.

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever ___ 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns
 
Followup Instructions:
___